Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Ativan
 
Attending: ___
 
Chief Complaint:
unwitnessed fall
left sided intraparenchymal hemorrhage
T7 compression fracture
urinary tract infection. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ PMH of LBD who was found down at ___ form
an unwitnessed fall. The patient was with staff from living
___ and brought back to her room. When staff returned, she
was found on the floor and a piece of clothing was caught on a
piece of furniture in her room. MRI at outside hospital showed a
new left sided intraparenchymal hemorrhage. Ms. ___ is also
currently being treated for a UTI at ___. UA from OSH
showed +3 bact and positive nitrites. Prior cultures on ___
showed klebsiella and was followed by her urologist. 

Ms ___ was found down from a unwitnessed fall and presented to
___. Her work up included a CT torso which demonstrated a T7
compression fracture in addition to the MRI which showed the 
IPH.
However, the patient denied any pain, numbness, tingling, or
weakness in her upper and lower extremities. She denies having a
fall and is not on any blood thinners.

At bedside, Ms. ___ is AAO x 1 but in no acute distress. She
denies being in pain and is accompanied by her daughter who
confirms this history. She has been afebrile in the ED but had a
temperature at ___ to 100.7.

 
Past Medical History:
Osteoprosis
Diverticulitis
UTI
LBD
HLD
s/p lumpectomy in ___ and XRT ___ yr
 
Social History:
___
Family History:
Lung and brain cancer in her father, who died at ___ years; 
mother and maternal grandmother with dementia of unknown type.
 
Physical Exam:
Admission Physical Exam 
 VS: T 99.8  HR 103  BP 139/75  RR 18  RA 96% 
 Gen: Alert, oriented, in NAD
 HEENT: EOMI, no palpable LAD. Pain w/ passive ROM. T1 ___
tenderness.   
 CV: RRR
 Resp: CTAB, no inc WOB
 Abd: Soft, NT, ND. 
 Extrem: Moving all 4 extremities. Normal strength and sensation
in the upper and lower extremities. No pain with passive or
active range of motion
 Neuro: AAO x 1. Not agitated. 

Discharge Physical Exam
VS: 98.3, hr 86 bp=155/76 5rr=18  92 % room air
 Gen: NAD, sitting in chair with TLSO brace on  
 
 CV: ns1, s2 
 LUNGS:  coarse BS bases bil
 Abd: soft, non-tender 
 Extrem: warm, non-tender, no pedal edema bil, no calf 
tenderness
 Neuro: oriented to name, follows commands
 
___ Results:
Imaging: 
CT:
IMPRESSION:
     1. New round 5 mm cortical/subcortical hemorrhage within 
the left medial frontal lobe, which may be secondary to the 
known amyloid angiopathy, but hemorrhagic mass cannot be 
excluded.  No associated edema.
     2. Extensive supratentorial white matter hypodensities 
appear grossly unchanged, nonspecific but likely sequela of 
chronic microvascular ischemic disease.
     3. Extensive motion artifact through the posterior fossa 
limits evaluation of the brainstem and cerebellum.

MRI:
IMPRESSION:
     1. Again seen is a new small hemorrhage at the gray/white 
matter junction of the medial left temporal lobe, without 
evidence for an underlying mass.  Given the numerous 
pre-existing chronic micro hemorrhages at the gray/white matter 
junction of the cerebral hemispheres, this is likely related to 
amyloid angiopathy. No surrounding edema.
     2. No acute infarction.
     3. Grossly unchanged extensive supratentorial white matter 
signal abnormalities, nonspecific but likely sequela of chronic 
small vessel ischemic disease in this age group.

___ 06:40AM BLOOD WBC-5.0 RBC-3.94 Hgb-11.6 Hct-35.4 MCV-90 
MCH-29.4 MCHC-32.8 RDW-14.1 RDWSD-45.6 Plt ___
___ 05:54AM BLOOD WBC-6.1 RBC-3.72* Hgb-10.9* Hct-33.0* 
MCV-89 MCH-29.3 MCHC-33.0 RDW-14.2 RDWSD-45.5 Plt ___
___ 08:15PM BLOOD Neuts-69.0 Lymphs-17.6* Monos-12.5 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-5.26 AbsLymp-1.34 
AbsMono-0.95* AbsEos-0.02* AbsBaso-0.02
___ 08:15PM BLOOD ___ PTT-28.3 ___
___ 06:40AM BLOOD Glucose-101* UreaN-11 Creat-0.4 Na-143 
K-3.6 Cl-104 HCO3-26 AnGap-13
___ 08:15PM BLOOD ALT-22 AST-25 AlkPhos-68 TotBili-0.7
___ 06:40AM BLOOD Calcium-9.8 Phos-2.2* Mg-2.0
___ 08:24PM BLOOD Lactate-1.2
 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with past medical history of 
___ Body disease, vertigo (on meclizine), frequent UTIs, and 
frequent falls who presented to ___ with chief complaint 
of unwitnessed fall at her assisted living facility. At ___ 
___, she was noted to have new left sided intraprenchymal 
hemorrhage and T7 compression fracture on imaging. Her UA at BIN 
showed 3+ bacteria and positive nitrites, and she was being 
treated for UTI. Of note, prior cultures on ___ showed 
klebsiella, and she had been followed by outpatient urology. At 
___, patient denied any neurologic symptoms in her upper or 
lower extremities. She was febrile to 100.7 at ___. At ___, 
her exam was notable for stable vital signs, thoracic ___ 
tenderness, and full strength, sensation, and range of motion of 
her extremities. Acute care surgery, neurosurgery, and ___ 
services were consulted for her care at ___. 

Neurosurgery assessed patient brain MR on ___, and on prior 
occasion (___), as most likely consistent with amyloid 
angiopathy. Her small left temporal lobe  hemorrhage was 
assessed as not requiring surgical intervention. They 
recommended admission to the acute care service for further 
management for T7 fracture and UTI. Consulting ___ service 
recommended inpatient ___ consult, TLSO brace with shoulder strap 
for 6 weeks and outpatient follow-up 2 weeks after discharge. 

She was admitted on ___ under the ACS service. Antibiotic 
therapy (linezolid, ceftriaxone) of her UTI was discontinued on 
___ with negative urinalysis. She received her home 
medications, including aspirin per neurosurgery recommendations. 
Patient's WBC, hematocrit, and creatine were within limits 
during her admission; urine culture and blood cultures showed no 
growth to date.  She remained afebrile with stable vital signs. 
Inpatient ___ teams evaluated patient with recommendation of 
discharge to rehab. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
voiding without assistance, and pain was well controlled.  The 
patient received discharge teaching and  follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Meclizine 25 mg PO TID 
3. Aspirin 81 mg PO DAILY 
4. Donepezil 5 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO QID  
2.  Docusate Sodium 100 mg PO BID  
3.  Heparin 5000 UNIT SC BID *AST Approval Required* 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  Donepezil 5 mg PO QHS  
9.  Meclizine 25 mg PO TID  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
T7 compression fracture
Intraparenchymal hemorrhage 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a fall sustaining a vertebral fracture. You were given 
pain medications and your breathing was closely monitored. You 
were seen by the neurosurgeons, who recommended follow up by 
your neurologist for your lew Body Dementia and 
intra-parenchymal hemorrhage. You were seen by the ___ 
doctors, who recommended a TLSO brace and follow up as an 
outpatient. You were seen and evaluated by the physical 
therapists who recommend that you continue to ambulate with a 
rolling walker. 

You are now doing better, tolerating a regular diet, and 
ambulating well. You are now ready to be discharged to home to 
continue your recovery. 

Please note the following discharge instructions:

* Your injury caused vertebral fractures which can cause severe 
pain and subsequently cause you to take shallow breaths because 
of the pain.

* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.

* Pneumonia is a complication of ___ fractures secondary to 
pain. In order to decrease your risk you must use your incentive 
spirometer 4 times every hour while awake. This will help expand 
the small airways in your lungs and assist in coughing up 
secretions that pool in the lungs.

* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.

* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.

* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.

* Do NOT smoke

* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.

* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
Followup Instructions:
___